US05013741
N-[(4-Trifluoromethylphenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine
1,2,3,4-Tetrahydro-9-acridinamine (4.00 g) was refluxed for twenty-four (24) hours in 400 ml of toluene that contained morpholine (3.50 g) and 4-trifluoromethylbenzaldehyde (4.35 g). At this time, an additional 2.0 g of aldehyde was added and reflux was continued for another sixteen (16) hours. At the end of this time the reaction mixture was concentrated and the residue was purified by flash chromatography (CH2Cl2, then 20% EtOAc/CH2Cl2). Fractions containing the product were concentrated and recrystallized from benzene/pentane to give 3.46 g of analytically pure product, m.p. 203°-205° C.

reactant | 1,2,3,4-Tetrahydro-9-acridinamine | 4.00 g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | morpholine | 3.50 g | N1CCOCC1 | C4H9NO
reactant | 4-trifluoromethylbenzaldehyde | 4.35 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(4-Trifluoromethylphenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine | FC(C1=CC=C(C=C1)C=NC=1C2=CC=CC=C2N=C2CCCCC12)(F)F | C21H17F3N2
